datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13]([C:14](=[C:15]([H:33])[H:34])[H:32])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13]([C:14](=[C:15]([H:33])[H:34])[H:32])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17],30.5432
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[O:15][O:16][H:17]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:17])([H:6])([H:7])[H:8].[O:15][O:16],-13.7026
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16]([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16]([C:15]([H:23])([H:24])[H:25])([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26],25.9408
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])[H:17])([H:15])[H:16])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])=[C:6]([H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:12])([H:10])[H:11],105.353
[C:0]([C:1]([O:2][H:7])[H:6])([H:3])([H:4])[H:5].[H:8]>>[C:0](=[C:1]([O:2][H:7])[H:6])([H:4])[H:5].[H:3][H:8],-1.397456
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6][H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:19][O:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:18][O:19][O:20],140.74976
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[S:6]([C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])([H:15])[H:16])[H:14]>>[C:0](=[C:1]([S:2][H:5])[H:15])([H:3])[H:4].[S:6]([C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])[H:16])[H:14],-37.656
[C:0](=[C:1][C:2]([O:3][H:8])([H:6])[H:7])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([C:12]([H:20])([H:21])[H:22])[C:13]([H:23])([H:24])[H:25])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([O:3][H:8])([H:6])[H:7])[H:14])([H:4])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])([C:12]([H:20])([H:21])[H:22])[C:13]([H:23])([H:24])[H:25])([H:15])[H:16],85.772
[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12)([H:11])([H:12])[H:13].[O:21][O:22]>>[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12)([H:12])[H:13].[H:11][O:21][O:22],192.648096
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[c:10]1[c:11]([H:16])[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]1[H:20])[H:6],-4.01664
[C:0]([C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[H:15])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([C:3](=[C:4]([H:13])[H:14])[H:12])[C:5]1([C:6](=[C:7]([H:17])[H:18])[H:16])[H:15],126.44
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])([H:13])[H:14])[H:12])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2](=[C:3]([H:13])[H:14])[H:12])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10].[O:4][O:5][H:15],63.5968
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[N:7]([H:8])[H:9]>>[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[H:6][N:7]([H:8])[H:9],15.2716
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])[H:13])([H:9])([H:10])[H:11].[H:12][O:27],9.3094
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([S:9][H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8]([C:7]([H:10])([H:11])[H:12])([S:9][H:14])[H:13],66.2327
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:4])[H:7])([H:5])[H:6],161.502
[S:0]=[C:1]([C:2]([S:3][H:6])[H:5])[H:4].[S:7]([c:8]1[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19])[H:14]>>[S:0]=[C:1]([C:2]([S:3][H:6])([H:5])[H:14])[H:4].[S:7][c:8]1[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19],57.3208
